US06491989B1
2,3-Difluoro-1-octyloxy-6-(4-octyloxyphenyl)naphthalene
From 2,3-difluoro-6-(4-octyloxyphenyl)naphthalen-1-ol and 1-octyl bromide by means of the Williamson ether synthesis.

reactant | 2,3-difluoro-6-(4-octyloxyphenyl)naphthalen-1-ol | FC1=C(C2=CC=C(C=C2C=C1F)C1=CC=C(C=C1)OCCCCCCCC)O | C24H26F2O2
reactant | 1-octyl bromide | C(CCCCCCC)Br | C8H17Br
solvent | ether | CCOCC | C4H10O
product | 2,3-Difluoro-1-octyloxy-6-(4-octyloxyphenyl)naphthalene | FC1=C(C2=CC=C(C=C2C=C1F)C1=CC=C(C=C1)OCCCCCCCC)OCCCCCCCC | C32H42F2O2
